* File: AOAI211.pex.netlist.pex
* Created: Tue Oct 25 00:24:34 2022
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AOAI211_GND! 1 6 14 22
r37 12 17 0.0178067
r38 12 14 2.17653
r39 9 22 30
r40 6 9 0.408036
r41 6 22 10
r42 4 17 0.0301946
r43 4 6 1.23965
r44 1 17 30
.ends

.subckt PM_AOAI211_noxref_20 3 9 10 13 19 21
r38 16 21 30
r39 13 16 0.408036
r40 13 21 10
r41 11 13 0.648
r42 9 11 0.0479332
r43 9 10 2.06155
r44 6 19 30
r45 3 6 0.421637
r46 3 19 10
r47 1 10 0.0479332
r48 1 3 0.644114
.ends

.subckt PM_AOAI211_OUT 3 9 10 13 19 25 31 34 37 39 40 42 45
c71 40 0 7.27036e-20
c72 37 0 7.57425e-20
c73 13 0 8.60033e-20
r74 34 46 0.15206
r75 34 45 0.117213
r76 33 37 0.0304975
r77 33 34 1.7
r78 28 40 10
r79 25 28 0.634399
r80 25 46 1.25617
r81 25 40 10
r82 21 45 0.168072
r83 20 31 0.0363272
r84 19 21 0.0479332
r85 19 20 0.68462
r86 17 42 30
r87 13 17 0.421637
r88 13 42 10
r89 11 31 0.00944082
r90 11 17 1.07618
r91 9 31 0.0363272
r92 9 10 1.24937
r93 6 39 10
r94 3 6 0.634399
r95 3 39 10
r96 1 10 0.0479332
r97 1 3 1.67878
.ends

.subckt PM_AOAI211_VDD! 1 6 14 17 21
c43 1 0 1.80639e-19
r44 12 17 0.0178067
r45 12 14 1.69193
r46 10 21 10
r47 6 10 0.634399
r48 6 21 10
r49 4 17 0.0301946
r50 4 10 1.69141
r51 1 17 30
.ends

.subckt PM_AOAI211_NET22 3 9 10 13 19 21
c20 19 0 1.07935e-19
r21 17 21 10
r22 13 17 0.636342
r23 13 21 10
r24 11 17 0.93654
r25 9 11 0.0479332
r26 9 10 1.4427
r27 7 19 10
r28 3 7 0.634399
r29 3 19 10
r30 1 10 0.0479332
r31 1 7 0.93654
.ends

.subckt PM_AOAI211_D 6 10 12 14 20 21 22
c39 22 0 1.42161e-19
c40 21 0 2.4917e-19
c41 14 0 1.85977e-19
c42 6 0 1.43037e-19
r43 20 23 6.93419
r44 20 22 6.00112
r45 20 21 25
r46 14 21 1.7
r47 6 12 90.5109
r48 6 23 120.651
r49 3 10 45.2555
r50 3 22 20.0029
.ends

.subckt PM_AOAI211_C 6 10 12 15 17 20 22
c53 22 0 2.24018e-19
c54 20 0 9.57165e-20
c55 17 0 1.12929e-19
c56 15 0 1.72269e-19
c57 6 0 1.5466e-19
r58 20 23 6.93419
r59 20 22 6.00112
r60 15 20 25
r61 15 17 1.7
r62 6 12 90.5109
r63 6 23 120.47
r64 3 10 45.2555
r65 3 22 20.1839
.ends

.subckt PM_AOAI211_B 6 10 12 15 17 20 22
c52 22 0 1.54519e-19
c53 20 0 5.77808e-20
c54 17 0 1.52563e-19
c55 15 0 2.56641e-19
c56 6 0 3.11975e-19
r57 20 23 6.93419
r58 20 22 6.00112
r59 15 20 25
r60 15 17 1.7
r61 6 12 90.5109
r62 6 23 121.104
r63 3 10 45.2555
r64 3 22 19.5504
.ends

.subckt PM_AOAI211_A 6 10 12 15 17 20 22
c38 22 0 1.96555e-19
c39 17 0 1.07938e-19
c40 15 0 1.87098e-19
c41 6 0 1.84403e-19
r42 20 23 6.97861
r43 20 22 6.1044
r44 15 20 25
r45 15 17 1.7
r46 6 12 90.5109
r47 6 23 121.104
r48 3 10 45.2555
r49 3 22 19.5504
.ends

