* File: AOI21.pex.netlist.pex
* Created: Wed Oct 26 00:00:11 2022
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AOI21_GND! 1 6 12 16 24 32 33
r14 22 28 0.0178067
r15 22 24 0.0861423
r16 19 33 30
r17 16 19 0.408036
r18 16 33 10
r19 14 28 0.0301946
r20 14 16 1.23965
r21 13 26 0.0178067
r22 12 28 0.0178067
r23 12 13 1.97496
r24 9 32 30
r25 6 9 0.408036
r26 6 32 10
r27 4 26 0.0301946
r28 4 6 1.23965
r29 1 26 15
.ends

.subckt PM_AOI21_OUT 5 11 12 15 23 25 27 29 32
c50 32 0 2.21428e-19
c51 27 0 7.88268e-20
c52 25 0 1.37536e-19
c53 5 0 1.07387e-19
r54 23 33 0.15206
r55 23 32 0.117213
r56 23 25 1.7
r57 19 29 30
r58 15 19 0.421637
r59 15 29 10
r60 13 19 0.853962
r61 11 13 0.0479332
r62 11 12 1.17359
r63 8 27 10
r64 5 8 0.634399
r65 5 33 1.04729
r66 5 27 10
r67 1 12 0.0479332
r68 1 32 0.376948
.ends

.subckt PM_AOI21_NET13 3 9 10 13 19 20
c27 20 0 3.4021e-19
r28 17 20 10
r29 13 17 0.634399
r30 13 20 10
r31 11 17 0.813158
r32 9 11 0.0479332
r33 9 10 1.8896
r34 7 19 10
r35 3 7 0.634399
r36 3 19 10
r37 1 10 0.0479332
r38 1 7 0.813158
.ends

.subckt PM_AOI21_VDD! 1 6 14 17 21
c38 1 0 7.88268e-20
r39 12 17 0.0178067
r40 12 14 0.164982
r41 10 21 10
r42 6 10 0.636342
r43 6 21 10
r44 4 17 0.0301946
r45 4 10 1.69141
r46 1 17 30
.ends

.subckt PM_AOI21_B 6 10 12 14 17 18 21 23
c31 23 0 1.71189e-19
c32 6 0 6.45676e-20
r33 21 24 6.95874
r34 21 23 5.97656
r35 18 21 25
r36 17 18 1.7
r37 14 17 0.0548061
r38 6 12 90.5109
r39 6 24 36.4759
r40 3 10 45.2555
r41 3 23 104.178
.ends

.subckt PM_AOI21_A 6 10 12 14 17 20 22
c34 17 0 1.07387e-19
c35 14 0 1.93754e-19
r36 20 23 6.95874
r37 20 22 5.97656
r38 17 20 25
r39 14 17 1.7
r40 6 12 90.5109
r41 6 23 33.6701
r42 3 10 45.2555
r43 3 22 106.984
.ends

.subckt PM_AOI21_C 6 10 12 15 17 20 22
c26 20 0 1.96694e-19
c27 17 0 7.29685e-20
r28 20 23 6.95874
r29 20 22 5.97656
r30 15 20 25
r31 15 17 1.7
r32 6 12 90.5109
r33 6 23 34.3942
r34 3 10 45.2555
r35 3 22 106.26
.ends

