* File: INV.pex.netlist.pex
* Created: Mon Oct 24 21:47:30 2022
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INV_GND! 1 6 14 22
r17 12 17 0.0178067
r18 12 14 1.26049
r19 9 22 30
r20 6 9 0.421637
r21 6 22 10
r22 4 17 0.0301946
r23 4 6 1.23577
r24 1 17 30
.ends

.subckt PM_INV_OUT 3 11 18 19 22 24 25
c23 19 0 7.26077e-20
r24 19 28 0.158182
r25 19 27 0.111091
r26 18 22 0.0294291
r27 18 19 1.7
r28 14 24 10
r29 11 14 0.634399
r30 11 28 1.82548
r31 11 24 10
r32 7 27 0.520732
r33 7 25 30
r34 3 7 0.421637
r35 3 25 10
.ends

.subckt PM_INV_VDD! 1 6 14 21
r14 12 17 0.0178067
r15 12 14 1.27154
r16 10 21 10
r17 6 10 0.634399
r18 6 21 10
r19 4 17 0.0301946
r20 4 10 1.69141
r21 1 17 30
.ends

.subckt PM_INV_IN 4 6 9 10 12 14 16 20 24
c30 16 0 7.26077e-20
r31 23 24 25
r32 16 20 0.022282
r33 16 24 1.7
r34 9 23 3.14921
r35 9 10 1.15077
r36 6 14 90.5109
r37 5 10 6.00199
r38 5 6 107.618
r39 4 10 6.00199
r40 3 12 45.2555
r41 3 4 33.0365
.ends

