* File: MUX.pex.netlist.pex
* Created: Tue Oct 25 13:10:14 2022
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_MUX_NET7 4 5 8 12 14 17 25 33 34 36 37 38
c75 25 0 1.44316e-19
r76 34 40 2.08403
r77 33 34 25
r78 31 36 0.00944082
r79 31 33 1.12113
r80 28 37 10
r81 25 28 0.634399
r82 25 37 10
r83 23 36 0.0363272
r84 23 25 2.38915
r85 21 38 30
r86 17 21 0.408036
r87 17 38 10
r88 15 36 0.0363272
r89 15 21 0.670345
r90 8 14 90.5109
r91 7 8 101.282
r92 6 40 4.10449
r93 5 7 3.46412
r94 5 6 44.2599
r95 4 34 8.91704
r96 3 12 45.2555
r97 3 4 29.9591
.ends

.subckt PM_MUX_GND! 1 6 12 16 24 27 33 35
r51 22 29 0.0178067
r52 22 24 0.54603
r53 19 35 30
r54 16 19 0.408036
r55 16 35 10
r56 14 29 0.0301946
r57 14 16 1.23965
r58 13 27 0.0178067
r59 12 29 0.0178067
r60 12 13 1.38751
r61 9 33 30
r62 6 9 0.408036
r63 6 33 10
r64 4 27 0.0301946
r65 4 6 1.23965
r66 1 27 15
.ends

.subckt PM_MUX_NET14 6 10 12 15 23 31 32 34 35 37 40
c78 35 0 1.07935e-19
c79 23 0 2.49971e-19
r80 32 41 8.20859
r81 32 40 8.80967
r82 31 32 25
r83 29 34 0.00944082
r84 29 31 1.1425
r85 26 35 10
r86 23 26 0.634399
r87 23 35 10
r88 21 34 0.0363272
r89 21 23 1.85268
r90 19 37 30
r91 15 19 0.421637
r92 15 37 10
r93 13 34 0.0363272
r94 13 19 0.66063
r95 6 12 90.5109
r96 6 41 95.0365
r97 3 10 45.2555
r98 3 40 29.9591
.ends

.subckt PM_MUX_OUT 3 11 19 21 23 24
c29 21 0 1.42392e-19
c30 19 0 1.10523e-19
c31 11 0 1.33664e-19
c32 3 0 3.99105e-20
r33 19 27 0.158653
r34 19 26 0.11062
r35 19 21 1.7
r36 14 23 10
r37 11 14 0.636342
r38 11 27 1.25423
r39 11 23 10
r40 7 26 1.41821
r41 7 24 30
r42 3 7 0.408036
r43 3 24 10
.ends

.subckt PM_MUX_VDD! 1 6 12 16 24 27 32 34
c71 6 0 1.8635e-19
c72 1 0 1.07935e-19
r73 22 29 0.0178067
r74 22 24 0.571571
r75 20 34 10
r76 16 20 0.634399
r77 16 34 10
r78 14 29 0.0301946
r79 14 20 1.69141
r80 13 27 0.0178067
r81 12 29 0.0178067
r82 12 13 1.38544
r83 10 32 10
r84 6 10 0.634399
r85 6 32 10
r86 4 27 0.0301946
r87 4 10 1.69141
r88 1 27 15
.ends

.subckt PM_MUX_S 2 6 8 9 10 11 12 16 18 22 24 26 28 31 34 37 39
c84 39 0 1.28121e-19
c85 37 0 1.8635e-19
c86 34 0 1.64306e-19
c87 31 0 2.74794e-19
c88 6 0 1.32453e-19
r89 37 40 6.95874
r90 37 39 5.97656
r91 31 37 25
r92 30 34 0.0469173
r93 30 31 1.7
r94 18 28 45.2555
r95 17 18 44.7124
r96 15 26 90.5109
r97 15 16 36.2949
r98 11 16 3.46412
r99 11 12 88.8818
r100 9 17 3.46412
r101 9 10 138.21
r102 8 12 3.46412
r103 7 24 90.5109
r104 7 8 36.2949
r105 6 24 90.5109
r106 6 40 55.0307
r107 3 22 45.2555
r108 3 39 85.6234
r109 2 22 45.2555
r110 1 10 3.46412
r111 1 2 44.7124
.ends

.subckt PM_MUX_A 6 10 12 14 20 21 22
c41 22 0 2.06946e-19
c42 21 0 2.19988e-19
c43 14 0 2.64909e-19
c44 6 0 1.55091e-19
r45 20 23 6.95874
r46 20 22 5.97656
r47 20 21 25
r48 14 21 1.7
r49 6 12 90.5109
r50 6 23 54.7591
r51 3 10 45.2555
r52 3 22 85.8949
.ends

.subckt PM_MUX_B 6 10 12 15 18 21 23
c45 18 0 3.99105e-20
c46 15 0 1.33664e-19
r47 21 24 6.95874
r48 21 23 5.97656
r49 15 21 25
r50 14 18 0.0261575
r51 14 15 1.7
r52 6 12 90.5109
r53 6 24 53.0394
r54 3 10 45.2555
r55 3 23 87.6146
.ends

